US07538123B2
(1) 7-Allyloxy-2,2-dimethyl-4-oxochroman
9.74 g of 7-hydroxy-2,2-dimethyl-4-oxochroman (CAS#: 17771-33-4) was dissolved in 150 ml of N,N-dimethylformamide. Thereafter, 10.5 g of potassium carbonate and 7.36 g of allyl bromide were added to the reaction solution, and the obtained mixture was stirred at room temperature overnight. Thereafter, the reaction solution was diluted with ethyl acetate, and then washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was then purified by silica gel column chromatography (hexane-ethyl acetate), so as to obtain 11.0 g of the subject compound.

reactant | 7-hydroxy-2,2-dimethyl-4-oxochroman | 9.74 g | OC1=CC=C2C(CC(OC2=C1)(C)C)=O | C11H12O3
reactant | potassium carbonate | 10.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 7.36 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Allyloxy-2,2-dimethyl-4-oxochroman | 11.0 g | C(C=C)OC1=CC=C2C(CC(OC2=C1)(C)C)=O | C14H16O3
